US08242133B2
To a mixture of 0.38 g of N-[2-hydroxy-5-(trifluoromethyl)phenyl]-3-methylisonicotinamide, 5 ml of tetrahydrofuran and 0.42 g of triphenylphosphine, 0.69 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature and stirred while heating at 60° C. After three hours, 5 ml of 10% aqueous solution of sodium hydroxide was added and stirred while heating at 60° C. for two hours. The reaction mixture was cooled to room temperature, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.29 g of 2-(3-methylpyridin-4-yl)-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 23”).

reactant | N-[2-hydroxy-5-(trifluoromethyl)phenyl]-3-methylisonicotinamide | 0.38 g | OC1=C(C=C(C=C1)C(F)(F)F)NC(C1=C(C=NC=C1)C)=O | C14H11F3N2O2
reactant | triphenylphosphine | 0.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | toluene | 0.69 g | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-(3-methylpyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.29 g | CC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C14H9F3N2O
